US07592160B2
An isomaltose content syrup, obtained by the method in Example A-1, was hydrogenated in accordance with the method in Experiment 36, and the resulting mixture was in a usual manner decolored with an activated charcoal, desalted for purification with ion-exchange resins in H- and OH-forms, and concentrated to give a concentration of about 73%. The concentrate was spray dried in a usual manner to obtain a high isomaltitol content powder, containing 43.3% of isomaltitol, 37.8% of ring-opened tetrasaccharide, 13.8% of cyclotetrasaccharide, and 3.5% of other sugar alcohols, in a yield of about 80%.

reactant | isomaltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H](C(O2)O)O)O)O)O)O)O)O | C12H22O11
reactant | charcoal | C | CH4
product | isomaltitol | yield of about 80% | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@H]([C@H]([C@@H]([C@H](CO)O)O)O)O)O)O)O)O | C12H24O11
